US06867205B2
5-Aminomethyl-2-(3,4-dimethoxy-phenyl)-6-phenyl-pyrimidin-4-ylamine
The title compound, MS: m/e=336.8 (M+H+), was prepared from 3,4-dimethoxybenzamidine and 2-benzylidene-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | 3,4-dimethoxybenzamidine | COC=1C=C(C(=N)N)C=CC1OC | C9H12N2O2
reactant | 2-benzylidene-malononitrile | C(C1=CC=CC=C1)=C(C#N)C#N | C10H6N2
product | 5-Aminomethyl-2-(3,4-dimethoxy-phenyl)-6-phenyl-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC)N | C19H20N4O2
